US07875633B2
(1) Production of 2-[3-(4-iodophenyl)propoxy]tetrahydro-2H-pyran
3,4-Dihydro-2H-pyran (2.5 mL, 27.4 mmol) and pyridinium p-toluenesulfonate (450 mg, 1.79 mmol) were added to a chloroform (50 mL) solution of 3-(4-iodophenyl)propan-1-ol (4.73 g, 18.0 mmol), and stirred overnight at room temperature. The reaction liquid was diluted with chloroform, washed with saturated saline, dried with anhydrous magnesium sulfate. The solvent was concentrated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (C-200, ethyl acetate:hexane=1:9 to 1:4) to obtain the entitled compound (6.22 g, 100%).

reactant | 3,4-Dihydro-2H-pyran | 27.4 mmol, 2.5 mL | O1CCCC=C1 | C5H8O
reactant | 3-(4-iodophenyl)propan-1-ol | 18.0 mmol, 4.73 g | IC1=CC=C(C=C1)CCCO | C9H11IO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | pyridinium p-toluenesulfonate | 1.79 mmol, 450 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-[3-(4-iodophenyl)propoxy]tetrahydro-2H-pyran | 6.22 g, 100% | IC1=CC=C(C=C1)CCCOC1OCCCC1 | C14H19IO2
